US09290468B2
Step 3: N-(5-((4-bromo-2-chlorophenyl)amino)-4-fluorobenzo[d]thia-zol-6-yl)-1-(2,3-dihydroxypropyl)cyclopropane-1-sulfonamide
To a solution of 1-allyl-N-(5-((4-bromo-2-chlorophenyl)amino)-4-fluorobenzo[d]thiazol-6-yl)cyclopropane-1-sulfonamide (50 mg, 0.10 mmol) in THF (10 mL) was added N-methylmorpholine-N-oxide (12 mg, 0.1 mmol) followed by osmium tetraoxide (5 mg, 0.02 mmol) and water (0.5 mL). After stirring at room temperature overnight, the mixture was concentrated and then diluted with EA. The organic layer was washed with water, saturated NaHCO3 (aq.) and brine sequentially, dried over Na2SO4, filtered and concentrated to give a residue, which was purified by flash chromatography to give the product as white solid (25 mg, 46.9% yield). 1H NMR (400 MHz, CDCl3) δ 8.67 (s, 1H), 7.96 (s, 1H), 7.92 (d, 1H), 7.73 (d, 1H), 7.44 (m, 1H), 6.82 (s, 1H), 6.68 (s, 1H), 4.42-4.25 (m, 2H), 4.21-4.13 (m, 1H), 3.73-3.62 (m, 1H), 3.61-3.51 (m, 1H), 2.63-2.52 (m, 2H), 0.91-0.83 (m, 4H). MS APCI (+) m/z: 551.9, [M+H].

reactant | 1-allyl-N-(5-((4-bromo-2-chlorophenyl)amino)-4-fluorobenzo[d]thiazol-6-yl)cyclopropane-1-sulfonamide | 0.10 mmol, 50 mg | C(C=C)C1(CC1)S(=O)(=O)NC1=CC2=C(N=CS2)C(=C1NC1=C(C=C(C=C1)Br)Cl)F | C19H16BrClFN3O2S2
reactant | N-methylmorpholine-N-oxide | 0.1 mmol, 12 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | water | 0.5 mL | O | H2O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | osmium tetraoxide | 0.02 mmol, 5 mg | [Os](=O)(=O)(=O)=O
product | N-(5-((4-bromo-2-chlorophenyl)amino)-4-fluorobenzo[d]thia-zol-6-yl)-1-(2,3-dihydroxypropyl)cyclopropane-1-sulfonamide | 25 mg, 46.9% yield | BrC1=CC(=C(C=C1)NC=1C(=CC2=C(N=CS2)C1F)NS(=O)(=O)C1(CC1)CC(CO)O)Cl | C19H18BrClFN3O4S2
